US05478838
A solution (200 ml) of 4-(1-acetamido-1-methylethyl)benzoic acid (17.9 g) and 5% ruthenium carbon (60 g) in 10% aqueous ammonia was stirred in an autoclave at initial hydrogen pressure of 70 atm and at 150°-170° C. for 3 hours. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to give a cis- and trans- mixture of 4-(1-acetamido-1-methylethyl)cyclohexanecarboxylic acid. Then, 31% hydrochloric acid-methanol (15 ml ) and methanol (100 ml ) were added thereto and the mixture was refluxed for 4 hours. After completion of the reaction, the mixture was concentrated under reduced pressure and the residue was extracted with chloroform. The extract was washed with water, dried and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography to give 14.0 g of a cis- and trans-mixture (3:1) of methyl 4-(1-acetamido-1-methylethyl)cyclohexanecarboxylate.

reactant | 4-(1-acetamido-1-methylethyl)benzoic acid | 200 ml, 17.9 g | C(C)(=O)NC(C)(C)C1=CC=C(C(=O)O)C=C1 | C12H15NO3
reactant | hydrogen | [H][H] | H2
reactant | 4-(1-acetamido-1-methylethyl)cyclohexanecarboxylic acid | C(C)(=O)NC(C)(C)C1CCC(CC1)C(=O)O | C12H21NO3
reactant | hydrochloric acid methanol | 15 ml | Cl.CO
solvent | ammonia | N | H3N
catalyst | ruthenium carbon | 60 g | [C].[Ru]
solvent | methanol | 100 ml | CO | CH4O
product | methyl 4-(1-acetamido-1-methylethyl)cyclohexanecarboxylate | C(C)(=O)NC(C)(C)C1CCC(CC1)C(=O)OC | C13H23NO3
